US07153855B2
To a solution of 2-(4-Bromophenyl)-N-butyl-3-[2-(butylamino)-4-pyrimidinyl]pyrazolo-[1,5-a]pyridin-7-amine (52 mg, 0.11 mmol) in tetrahydrofuran was added phenylboronic acid (26 mg, 0.21 mmol), sodium carbonate (0.21 mL, 2 M aqueous, 0.42 mmol), and dichlorobistriphenylphosphine palladium (II) (7.5 mg, 0.01 mmol). The mixture was heated at reflux for 3.5 hours. The resultant solution was cooled to room temperature and diluted with ether and water was added. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics dried over magnesium sulfate. Filtration and concentration followed by flash chromatography provided 2-[1,1′-biphenyl]-4-yl-N-butyl-3-[2-(butylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine (37 mg, 73%) as a yellow solid. 1H NMR (CDCl3): δ 8.05 (d, 1 H), 7.83–7.69 (m, 7 H), 7.51 (m, 2 H), 7.43–7.33 (m, 2 H), 6.44 (d, 1 H), 6.12 (t, 1 H), 6.05 (d, 1 H), 5.16 (broad, 1 H), 3.52 (m, 2 H), 3.42 (m, 2 H), 1.84–1.43 (m, 8 H), 1.05–0.99 (m, 6 H); MS m/z 491 (M+1).

reactant | 2-(4-Bromophenyl)-N-butyl-3-[2-(butylamino)-4-pyrimidinyl]pyrazolo-[1,5-a]pyridin-7-amine | 0.11 mmol, 52 mg | BrC1=CC=C(C=C1)C1=NN2C(C=CC=C2NCCCC)=C1C1=NC(=NC=C1)NCCCC | C25H29BrN6
reactant | phenylboronic acid | 0.21 mmol, 26 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.42 mmol, 2 M, 0.21 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-[1,1′-biphenyl]-4-yl-N-butyl-3-[2-(butylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 37 mg, 73% | C1(=CC=C(C=C1)C1=NN2C(C=CC=C2NCCCC)=C1C1=NC(=NC=C1)NCCCC)C1=CC=CC=C1 | C31H34N6
